US09023858B2
F) 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde
2-(Ethylsulfanyl)-7-(hydroxymethyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one (373 mg) and triethylamine (6 ml) were dissolved in dimethyl sulfoxide (18 ml), sulfur trioxide pyridine complex (1.16 g) was added thereto by several portions, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, 1M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (299 mg) as a orange solid.

reactant | 2-(Ethylsulfanyl)-7-(hydroxymethyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | 373 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)CO)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H16F3N3O3S
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 18 ml | CS(=O)C | C2H6OS
product | 2-(ethylsulfanyl)-4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydropyrido[2,3-d]pyrimidine-7-carbaldehyde | 299 mg | C(C)SC=1N(C(C2=C(N1)N=C(C=C2)C=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C18H14F3N3O3S
